US07365203B2
A stirred mixture of N-(4-chloro-3-cyano-7-ethoxy-6N-acetylquinoline (274.5 g, 0.947 mol), 3-chloro-4-fluoroaniline (180 g, 1.24 mol), methanesulfonic acid, (5.5 g, 0.057 mol), and 2-propanol (6.7 L) was warmed to reflux (84° C.) for 6.5 hours. After stirring overnight at room temperature, the mixture was warmed to 80° C. Water (3.2 L) containing concentrated hydrochloric acid (655 mL of 38% aqueous HCl) was added. The reaction was kept at reflux for 5 hours. The reaction mixture was cooled to 0° C.-10° C. for 1 hour. The yellow solid product is collected by vacuum filtration and washed with 20% 2-propanol/water (700 mL) and water (2×700 mL). Drying the product in vacuo at 60° C. gave 344.8 g (91%, 99% by HPLC) of 6-Amino-4-(3-chloro-4-fluoro-phenylamino)-7-ethoxy-quinoline-3-carbonitrile as a hydrochloride salt. 1H NMR (DMSO-d6+D2O) δ1.42 (t, 3H), 4.25 (q, 2H), 7.05 (m, 1H), 7.1 (s, 1H), 7.35-7.50 (m, 3H), 7.65 (dd, 1H), 8.65 (s, 1H).

reactant | 4-chloro-3-cyano-7-ethoxy-6N-acetylquinoline | 0.947 mol, 274.5 g | CCOC1=C(C=C2C(=C1)N=CC(=C2Cl)C#N)NC(=O)C | C14H12ClN3O2
reactant | 3-chloro-4-fluoroaniline | 1.24 mol, 180 g | ClC=1C=C(N)C=CC1F | C6H5ClFN
reactant | 2-propanol | 6.7 L | CC(C)O | C3H8O
reactant | hydrochloric acid | 655 mL | Cl | ClH
catalyst | methanesulfonic acid | 0.057 mol, 5.5 g | CS(=O)(=O)O | CH4O3S
solvent | Water | 3.2 L | O | H2O
product | 6-Amino-4-(3-chloro-4-fluoro-phenylamino)-7-ethoxy-quinoline-3-carbonitrile | 344.8 g | NC=1C=C2C(=C(C=NC2=CC1OCC)C#N)NC1=CC(=C(C=C1)F)Cl | C18H14ClFN4O
